US04885300
1-(1-Chloro-2-hydroxy-3-propanyl)-4-[bis(4-fluorophenyl)-methyl]piperazine Monohydrate
To a mixture of epichlorohydrin (3.5 mL, 0.05 mol) in ethanol (12 mL) at 0° C. (ice bath) and anhydrous NaHCO3 (4.2 g, 0.05 mol), [bis(4-fluorophenyl)methyl]piperazine (14.4 g, 0.05 mol) in ethanol (200 mL) was added dropwise over 45 min under N2. The ice bath was removed and the mixture was allowed to come to room temperature. After 18 h the NaHCO3 was removed by filtration via a sintered glass funnel and the ethanol in the filtrate was removed in vacuo to give the crude product (21.3 g). Silica gel flash chromatography using 2.0% MeOH:CH2Cl2 gave pure product (10.05 g, 52.9%) as an amber oil. DCI/MS (M+1) 381. 400 MHz 1H NMR (CDCl3) δ: 7.3 (m, 4H), 6.95 (m, 4H), 4.2 (s, 1H), 3.95 (m, 1H), 3.55 (m, 2H), 2.7 (m, 2H), 2.5 (m, 4H), 2.4 (m, 4H).

reactant | epichlorohydrin | 0.05 mol, 3.5 mL | C(Cl)C1CO1 | C3H5ClO
reactant | NaHCO3 | 0.05 mol, 4.2 g | C(=O)(O)[O-].[Na+]
reactant | [bis(4-fluorophenyl)methyl]piperazine | 0.05 mol, 14.4 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N1CCNCC1 | C17H18F2N2
reactant | MeOH | CO | CH4O
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(1-Chloro-2-hydroxy-3-propanyl)-4-[bis(4-fluorophenyl)-methyl]piperazine Monohydrate | 10.05 g, 52.9% | O.ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | InChI=1S/C20H23ClF2N2O.H2O/c21-13-19(26)14-24-9-11-25(12-10-24)20(15-1-5-17(22)6-2-15)16-3-7-18(23)8-4-16;/h1-8,19-20,26H,9-14H2;1H2
